US09193669B2
Reaction between 1-oxaspiro[2.4]heptane and 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione gives 2-(3-(3-(((1-hydroxycyclopentyl)methyl)amino)phenyl)propyl)isoindoline-1,3-dione.

reactant | 1-oxaspiro[2.4]heptane | O1CC12CCCC2 | C6H10O
reactant | 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione | NC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H16N2O2
product | 2-(3-(3-(((1-hydroxycyclopentyl)methyl)amino)phenyl)propyl)isoindoline-1,3-dione | OC1(CCCC1)CNC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C23H26N2O3
